US07893056B2
(4S)-3-[(2R)-3-Cyclopentyl-2-(hydroxymethyl)propanoyl]-4-(phenylmethyl)-1,3-oxazolidin-2-one (33.1 g, 0.1 mol) was stirred in a mixture of THF (330 mL) and water (55 mL) and cooled to 0° C. 30% Hydrogen peroxide (96 mL, 1 mol) was added, followed by lithium hydroxide monohydrate (8.4 g, 0.2 mol). The reaction was warmed to room temperature, and then stirred overnight. The THF was removed by rotary evaporation. The aqueous residue was washed with dichloromethane (3×100 mL), was acidified with 6N HCl, and was extracted with ethyl acetate (4×100 mL). The organic extracts were dried (MgSO4) and were evaporated to provide (2R)-3-cyclopentyl-2-(hydroxymethyl)propanoic acid as a clear, colorless oil (18.5 g, >100%). LCMS: (M+H)+: not detected. 1H NMR (400 MHz, CDCl3): δ 7.3 (br s, 1H), 3.79 (d, J=5.83 Hz, 2H), 2.64-2.71 (m, 1H), 1.45-1.87 (m, 9H), 1.05-0.14 (m, 2H).

reactant | (4S)-3-[(2R)-3-Cyclopentyl-2-(hydroxymethyl)propanoyl]-4-(phenylmethyl)-1,3-oxazolidin-2-one | 0.1 mol, 33.1 g | C1(CCCC1)C[C@@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)CO | C19H25NO4
reactant | Hydrogen peroxide | 1 mol, 96 mL | OO | H2O2
reactant | lithium hydroxide monohydrate | 0.2 mol, 8.4 g | O.[OH-].[Li+]
solvent | THF | 330 mL | C1CCOC1 | C4H8O
solvent | water | 55 mL | O | H2O
product | (2R)-3-cyclopentyl-2-(hydroxymethyl)propanoic acid | C1(CCCC1)C[C@@H](C(=O)O)CO | C9H16O3
